US05047242
Azadirachtin (30mg, 0.042mmol) and 0.5ml of ethanol was stirred with 20mg of 5% palladiumon alumina at 20° C. under hydrogen (10 atm) for 3 hours. The reaction mixture was then filtered and rotary evaporated in vacuo. The crude product was purified by silica gel preparative HPLC (solvent=2-propanol:n-hexane, 17:83, v/v), followed by ODS preparative HPLC (solvent=methanol:water, 1:1, v/v) to give 2',3',22,23-tetrahydroazadirachtin (18mg).

reactant | Azadirachtin | 0.042mmol, 30mg | C/C=C(\C)/C(=O)O[C@H]1C[C@H]([C@]2(CO[C@@H]3[C@@H]2[C@]14CO[C@@]([C@H]4[C@]([C@@H]3O)(C)[C@@]56[C@@H]7C[C@H]([C@@]5(O6)C)[C@]8(C=CO[C@H]8O7)O)(C(=O)OC)O)C(=O)OC)OC(=O)C | C35H44O16
catalyst | palladiumon alumina | 20mg | [Pd] | Pd
solvent | ethanol | 0.5ml | C(C)O | C2H6O
product | 2',3',22,23-tetrahydroazadirachtin | 18mg | CCC(C)C(=O)O[C@H]1C[C@H]([C@]2(CO[C@@H]3[C@@H]2[C@]14CO[C@@]([C@H]4[C@]([C@@H]3O)(C)[C@@]56C7C[C@H]([C@@]5(O6)C)[C@]8(CCO[C@H]8O7)O)(C(=O)OC)O)C(=O)OC)OC(=O)C | C35H48O16
